US04634704
A mixture of 1.62 parts of 5-chloro-1-methyl-4-nitro-1H-imidazole, 3.67 parts of N-[1-(2-aminoethyl)-4-piperidinyl]-3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-amine, 1.1 parts of sodium carbonate, 0.1 parts of potassium iodide and 90 parts of N,N-dimethylformamide was stirred and heated overnight at 70° C. The reaction mixture was cooled and poured onto water. The product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia, (96:4 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile, yielding 2.2 parts (45%) of 3-[(4-fluorophenyl)methyl]-N-[1-[2-[(1-methyl-4-nitro-1H-imidazol-5-yl)amino]ethyl]-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine; mp. 198.7° C. (compound 11 ).

reactant | 5-chloro-1-methyl-4-nitro-1H-imidazole | ClC1=C(N=CN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | N-[1-(2-aminoethyl)-4-piperidinyl]-3-[(4-fluorophenyl)methyl]-3H-imidazo[4,5-b]pyridin-2-amine | NCCN1CCC(CC1)NC1=NC=2C(=NC=CC2)N1CC1=CC=C(C=C1)F | C20H25FN6
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-[(4-fluorophenyl)methyl]-N-[1-[2-[(1-methyl-4-nitro-1H-imidazol-5-yl)amino]ethyl]-4-piperidinyl]-3H-imidazo[4,5-b]pyridin-2-amine | 45% | FC1=CC=C(C=C1)CN1C(=NC=2C1=NC=CC2)NC2CCN(CC2)CCNC2=C(N=CN2C)[N+](=O)[O-] | C24H28FN9O2
